US09169259B2
6-Phenyl-N-(6-(pyrrolidin-1-yl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine hydrochloride
A mixture of 6-chloro-N-(6-(pyrrolidin-1-yl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine (52 mg, 0.17 mmol), phenylboronic acid (31 mg, 0.25 mmol), Pd2(dba)3 (10 mg, 0.017 mmol), X-phos (32 mg, 0.067 mmol) and K2CO3 (69 mg, 0.5 mmol) in dioxane (5 mL) and water (0.5 mL) was heated to 100° C. with stirring for 4 h under N2. The solvent was removed in vacuo and the resulting mixture was purified by chromatography (silica gel, 200-300 mesh, CH2Cl2:MeOH=180:1) to give crude product as a yellow solid. The solid was further purified by prep-HPLC (Gemini 5u C18 150×21.2 mm; inject volume: 3 mL/inj, flow rate: 20 mL/min; wavelength: 214 nm and 254 nm; gradient conditions: 20% acetonitrile/80% water (0.1% TFA, v/v) initially, proceeding to 40% acetonitrile/60% water (0.1% TFA, v/v) in a linear fashion over 9 min) to give a light yellow solid. This was dissolved in methanol and three drops of concentrated HCl added. The mixture was stirred for 5 minutes, then concentrated in vacuo to give the final product 6-phenyl-N-(6-(pyrrolidin-1-yl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine hydrochloride (46 mg, 78%) as an HCl salt. 1H NMR (300 MHz, CD3OD): δ 8.81 (s, 1H), 8.31 (s, 1H), 8.04-7.96 (m, 3H), 7.56-7.50 (m, 4 h), 6.38 (d, 1H, J=7.8 Hz), 6.20 (d, 1H, J=8.4 Hz), 3.54-3.49 (m, 4 h), 2.08-2.03 (m, 4 h). LC-MS: [M+H]+, 357.1, tR=1.912 min, HPLC: 95.34% at 214 nm, 99.67% at 254 nm, tR=7.083 min.

reactant | 6-chloro-N-(6-(pyrrolidin-1-yl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine | 0.17 mmol, 52 mg | ClC=1C=C(C=2N(N1)C=CN2)NC2=NC(=CC=C2)N2CCCC2 | C15H15ClN6
reactant | phenylboronic acid | 0.25 mmol, 31 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | X-phos | 0.067 mmol, 32 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | K2CO3 | 0.5 mmol, 69 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.5 mL | O | H2O
solvent | methanol | CO | CH4O
catalyst | HCl | three drops | Cl | ClH
catalyst | Pd2(dba)3 | 0.017 mmol, 10 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 6-phenyl-N-(6-(pyrrolidin-1-yl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine hydrochloride | 46 mg, 78% | Cl.C1(=CC=CC=C1)C=1C=C(C=2N(N1)C=CN2)NC2=NC(=CC=C2)N2CCCC2 | InChI=1S/C21H20N6.ClH/c1-2-7-16(8-3-1)17-15-18(21-22-11-14-27(21)25-17)23-19-9-6-10-20(24-19)26-12-4-5-13-26;/h1-3,6-11,14-15H,4-5,12-13H2,(H,23,24);1H
